US09079866B2
4′-(5-Aminopyrazin-2-yl)-3′-fluoro-N-(2-hydroxyethyl)biphenyl-2-sulfonamide
5-(2-Fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine (40 mg, 0.13 mmol) and 2-bromo-N-(2-hydroxyethyl)benzenesulfonamide (53 mg, 0.19 mmol) were added to a 5 mL sealable vial equipped with a stir bar. 1,4-Dioxane (0.7 mL) and Na2CO3 (0.3 mL, 2 M) were added. Argon was bubbled through the solvent while it was rapidly stirred for 10 min before adding Pd(dppf)Cl2.CH2Cl2 (5 mg, 0.006 mmol) and heating the mixture heated 15 hours at 80° Celsius. The reaction was cooled to rt, diluted with 2 mL of ethylacetate, 2 mL of water and extracted with of ethyl acetate (3×10 mL). The combined organic extracts were then dried with Na2SO4 and concentrated to dryness. The crude product was purified by HPLC to give the title compound. MS (ESI): mass calcd. for C18H17FN4O3S, 388.10; m/z found, 389.1 [M+H]+. 1H NMR (500 MHz, CD3OD) δ 8.43-8.37 (dd, J=2.2, 1.5, 1H), 8.11-8.06 (m, 2H), 7.93-7.86 (m, 1H), 7.70-7.64 (m, 1H), 7.62-7.56 (m, 1H), 7.44-7.38 (dd, J=7.6, 1.3, 1H), 7.35-7.27 (m, 2H), 3.49-3.44 (t, J=5.9, 2H), 2.90-2.84 (t, J=5.9, 2H).

reactant | 5-(2-Fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine | 0.13 mmol, 40 mg | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 2-bromo-N-(2-hydroxyethyl)benzenesulfonamide | 0.19 mmol, 53 mg | BrC1=C(C=CC=C1)S(=O)(=O)NCCO | C8H10BrNO3S
reactant | Na2CO3 | 2 M, 0.3 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | CH2Cl2 | 0.006 mmol, 5 mg | C(Cl)Cl | CH2Cl2
solvent | ethylacetate | 2 mL | C(C)OC(C)=O | C4H8O2
solvent | water | 2 mL | O | H2O
solvent | 1,4-Dioxane | 0.7 mL | O1CCOCC1 | C4H8O2
product | 4′-(5-Aminopyrazin-2-yl)-3′-fluoro-N-(2-hydroxyethyl)biphenyl-2-sulfonamide | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)NCCO)F | C18H17FN4O3S
